US06670359B2
(S)-N-[5-(4-Methylpiperazin-1-yl)-3,4 dihydro-2H-1-benzopyran-3-yl]-4-[4-(2-benzyloxyethyl)-piperazin-1-yl]benzamide
(S)-N-[5-(4-Methylpiperazin-1-yl)-3,4 dihydro-2H-1-benzopyran-3-yl ]-4-(piperazin-1-yl)benzamide (500 mg, 1.2 mmol) was dissolved in N,N-dimethylformamide (5 mL) and potassium carbonate (170 mg, 1.3 mmol) was added. To the mixture was added a solution of 2-benzyloxyethyl mesylate (290 mg, 1.3 mmol) (described in: Beard, C; Edwards, J; Fried, J. U.S. Pat. No. 3,929,824, 1972) in N,N-dimethylformamide (5 mL). The reaction mixture was stirred at 40° C. for 24 h. The solvent was evaporated in vacuo giving 950 mg of a crude product. Purification by column chromatography on silica gel using chloroform/methanol/concentrated ammonia 95:5:0.5 as the eluent afforded 154 mg (24% yield) of the title compound as an oil: EIMS (70 eV) m/z (relative intensity) 569 (3, M+).

reactant | (S)-N-[5-(4-Methylpiperazin-1-yl)-3,4 dihydro-2H-1-benzopyran-3-yl ]-4-(piperazin-1-yl)benzamide | 1.2 mmol, 500 mg | CN1CCN(CC1)C1=CC=CC2=C1C[C@@H](CO2)NC(C2=CC=C(C=C2)N2CCNCC2)=O | C25H33N5O2
reactant | potassium carbonate | 1.3 mmol, 170 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-benzyloxyethyl mesylate | 1.3 mmol, 290 mg | S(C)(=O)(=O)OCCOCC1=CC=CC=C1 | C10H14O4S
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (S)-N-[5-(4-Methylpiperazin-1-yl)-3,4 dihydro-2H-1-benzopyran-3-yl]-4-[4-(2-benzyloxyethyl)-piperazin-1-yl]benzamide | 154 mg, 24% yield | CN1CCN(CC1)C1=CC=CC2=C1C[C@@H](CO2)NC(C2=CC=C(C=C2)N2CCN(CC2)CCOCC2=CC=CC=C2)=O | C34H43N5O3
